US06509345B2
Step 1: 3-(3-Allyl-2-fluoro-4-pyridinyl)-3-pentanol
27 ml (43.3 mmol) of 1.6M butyllithium in hexane are added, at −75° C., to a solution of 11.4 g (43.3 mmol) of 3-allyl-2-fluoro-4-iodopyridine (prepared according to the process described in J.O.C., 1993, 58, pp.7832) in 250 ml of THF. After 30 minutes' stirring at −75° C. a solution of 4.6 ml of 3-pentanone in 100 ml of THF is added dropwise. The reaction mixture is stirred for 6 hours at −75° C. After returning to room temperature, the mixture is hydrolysed with 100 ml of water and extracted with ethyl acetate. The organic phase is dried, concentrated and purified by chromatography over silica (eluant:cyclohexane/ethyl acetate 8/2) to yield the expected product.

reactant | butyllithium | 43.3 mmol, 1.6M, 27 ml | C(CCC)[Li]
reactant | 3-allyl-2-fluoro-4-iodopyridine | 43.3 mmol, 11.4 g | C(C=C)C=1C(=NC=CC1I)F | C8H7FIN
reactant | 3-pentanone | 4.6 ml | CCC(CC)=O | C5H10O
reactant | water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(3-Allyl-2-fluoro-4-pyridinyl)-3-pentanol | C(C=C)C=1C(=NC=CC1C(CC)(CC)O)F | C13H18FNO
